US06166006
A solution of methyl 7-bromo-5-oxo-2,3,4,5-tetrahydro-1-benzothiepine-4-carboxylate (24.94 g) in THF (200 ml) was cooled to -20° C., and to the mixture was added dropwise a solution of sodium boro hydride (2.99 g) in methanol (30 ml). While the temperature of the mixture was kept at -15 to 20° C., the mixture was stirred for 1 hour. To the mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue (24.38 g) was dissolved in THF (200 ml). To the mixture was added triethylamine (26 ml) and then to the mixture was added dropwise at 0° C. methanesulfonyl chloride (9.2 ml). The mixture was stirred at 0° C. for 30 minutes and then at room temperature for 15 hours. To the mixture was added dropwise 1,8-diaza-bicyclo[5,4,0]-7-undecene (17.9 g), and the mixture was stirred for 3 hours. To the mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried with magnesium sulfate. Under reduced pressure, the mixture was concentrated, and the residue was purified with column chromatography (ethyl acetate/hexane=:10). Under reduced pressure, the mixture was concentrated, and the resulting crystals were recrystallized from ethyl acetate/hexane to give pale yellow crystals of methyl 7-bromo-2,3-dihydro-1-benzothiepine-4-carboxylate (11.00 g).

reactant | methyl 7-bromo-5-oxo-2,3,4,5-tetrahydro-1-benzothiepine-4-carboxylate | 24.94 g | BrC=1C=CC2=C(C(C(CCS2)C(=O)OC)=O)C1 | C12H11BrO3S
reactant | sodium boro hydride | 2.99 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | methanol | 30 ml | CO | CH4O
product | methyl 7-bromo-2,3-dihydro-1-benzothiepine-4-carboxylate | 11.00 g | BrC=1C=CC2=C(C=C(CCS2)C(=O)OC)C1 | C12H11BrO2S
